* Equivalent circuit model for E:\touchstone_files\matlab\131_um.ckt
.SUBCKT 131_um po1 po2 po3 po4
Vsp1 po1 p1 0
Vsr1 p1 pr1 0
Rp1 pr1 0 50
Ru1 u1 0 50
Fr1 u1 0 Vsr1 -1
Fu1 u1 0 Vsp1 -1
Ry1 y1 0 1
Gy1 p1 0 y1 0 -0.02
Vsp2 po2 p2 0
Vsr2 p2 pr2 0
Rp2 pr2 0 50
Ru2 u2 0 50
Fr2 u2 0 Vsr2 -1
Fu2 u2 0 Vsp2 -1
Ry2 y2 0 1
Gy2 p2 0 y2 0 -0.02
Vsp3 po3 p3 0
Vsr3 p3 pr3 0
Rp3 pr3 0 50
Ru3 u3 0 50
Fr3 u3 0 Vsr3 -1
Fu3 u3 0 Vsp3 -1
Ry3 y3 0 1
Gy3 p3 0 y3 0 -0.02
Vsp4 po4 p4 0
Vsr4 p4 pr4 0
Rp4 pr4 0 50
Ru4 u4 0 50
Fr4 u4 0 Vsr4 -1
Fu4 u4 0 Vsp4 -1
Ry4 y4 0 1
Gy4 p4 0 y4 0 -0.02
Rx1 x1 0 1
Fxc1_2 x1 0 Vx2 0.673958612245283
Cx1 x1 xm1 3.23931927078273e-13
Vx1 xm1 0 0
Gx1_1 x1 0 u1 0 -1.11208828994278
Rx2 x2 0 1
Fxc2_1 x2 0 Vx1 -0.41910879550042
Cx2 x2 xm2 3.23931927078273e-13
Vx2 xm2 0 0
Gx2_1 x2 0 u1 0 0.466085983688038
Rx3 x3 0 1
Fxc3_4 x3 0 Vx4 4.39762811982565
Cx3 x3 xm3 1.36341540659463e-13
Vx3 xm3 0 0
Gx3_1 x3 0 u1 0 -0.3355022040707
Rx4 x4 0 1
Fxc4_3 x4 0 Vx3 -0.892712587847568
Cx4 x4 xm4 1.36341540659463e-13
Vx4 xm4 0 0
Gx4_1 x4 0 u1 0 0.299507040824517
Rx5 x5 0 1
Cx5 x5 0 9.65262727343952e-13
Gx5_1 x5 0 u1 0 -0.582594893622297
Rx6 x6 0 1
Cx6 x6 0 5.81926670416327e-12
Gx6_1 x6 0 u1 0 -0.0188153222126721
Rx7 x7 0 1
Fxc7_8 x7 0 Vx8 0.664058465249183
Cx7 x7 xm7 3.23931927078273e-13
Vx7 xm7 0 0
Gx7_2 x7 0 u2 0 -1.09883297148719
Rx8 x8 0 1
Fxc8_7 x8 0 Vx7 -0.425357098774824
Cx8 x8 xm8 3.23931927078273e-13
Vx8 xm8 0 0
Gx8_2 x8 0 u2 0 0.467396404789908
Rx9 x9 0 1
Fxc9_10 x9 0 Vx10 4.39997779847272
Cx9 x9 xm9 1.36341540659463e-13
Vx9 xm9 0 0
Gx9_2 x9 0 u2 0 -0.334696161605913
Rx10 x10 0 1
Fxc10_9 x10 0 Vx9 -0.892235860963545
Cx10 x10 xm10 1.36341540659463e-13
Vx10 xm10 0 0
Gx10_2 x10 0 u2 0 0.298627917911645
Rx11 x11 0 1
Cx11 x11 0 9.65262727343952e-13
Gx11_2 x11 0 u2 0 -0.580733319459718
Rx12 x12 0 1
Cx12 x12 0 5.81926670416327e-12
Gx12_2 x12 0 u2 0 -0.018640138896566
Rx13 x13 0 1
Fxc13_14 x13 0 Vx14 0.673959121655853
Cx13 x13 xm13 3.23931927078273e-13
Vx13 xm13 0 0
Gx13_3 x13 0 u3 0 -1.11208515983806
Rx14 x14 0 1
Fxc14_13 x14 0 Vx13 -0.419108478717927
Cx14 x14 xm14 3.23931927078273e-13
Vx14 xm14 0 0
Gx14_3 x14 0 u3 0 0.466084319544511
Rx15 x15 0 1
Fxc15_16 x15 0 Vx16 4.3976402846206
Cx15 x15 xm15 1.36341540659463e-13
Vx15 xm15 0 0
Gx15_3 x15 0 u3 0 -0.335503147526209
Rx16 x16 0 1
Fxc16_15 x16 0 Vx15 -0.892710118417402
Cx16 x16 xm16 1.36341540659463e-13
Vx16 xm16 0 0
Gx16_3 x16 0 u3 0 0.299507054557533
Rx17 x17 0 1
Cx17 x17 0 9.65262727343952e-13
Gx17_3 x17 0 u3 0 -0.582596049852915
Rx18 x18 0 1
Cx18 x18 0 5.81926670416327e-12
Gx18_3 x18 0 u3 0 -0.0188153241319215
Rx19 x19 0 1
Fxc19_20 x19 0 Vx20 0.664057777860386
Cx19 x19 xm19 3.23931927078273e-13
Vx19 xm19 0 0
Gx19_4 x19 0 u4 0 -1.09883058623281
Rx20 x20 0 1
Fxc20_19 x20 0 Vx19 -0.425357539076428
Cx20 x20 xm20 3.23931927078273e-13
Vx20 xm20 0 0
Gx20_4 x20 0 u4 0 0.467395874021896
Rx21 x21 0 1
Fxc21_22 x21 0 Vx22 4.39998596852858
Cx21 x21 xm21 1.36341540659463e-13
Vx21 xm21 0 0
Gx21_4 x21 0 u4 0 -0.334696957944092
Rx22 x22 0 1
Fxc22_21 x22 0 Vx21 -0.892234204227167
Cx22 x22 xm22 1.36341540659463e-13
Vx22 xm22 0 0
Gx22_4 x22 0 u4 0 0.2986280739285
Rx23 x23 0 1
Cx23 x23 0 9.65262727343952e-13
Gx23_4 x23 0 u4 0 -0.580734073263503
Rx24 x24 0 1
Cx24 x24 0 5.81926670416327e-12
Gx24_4 x24 0 u4 0 -0.0186401758477761
Gyc1_1 y1 0 x1 0 -1
Gyc1_2 y1 0 x2 0 -0.680751644086
Gyc1_3 y1 0 x3 0 0.375848984963276
Gyc1_4 y1 0 x4 0 -0.687184785997945
Gyc1_5 y1 0 x5 0 0.745623109550114
Gyc1_6 y1 0 x6 0 1
Gyc1_7 y1 0 x7 0 -0.305314089903111
Gyc1_8 y1 0 x8 0 0.961716569348866
Gyc1_9 y1 0 x9 0 1
Gyc1_10 y1 0 x10 0 -0.181900774044884
Gyc1_11 y1 0 x11 0 -1
Gyc1_12 y1 0 x12 0 -0.514197884463965
Gyc1_13 y1 0 x13 0 -0.473608342694928
Gyc1_14 y1 0 x14 0 -0.430557966523815
Gyc1_15 y1 0 x15 0 0.0626221755525118
Gyc1_16 y1 0 x16 0 0.383437859278286
Gyc1_17 y1 0 x17 0 0.701838673171709
Gyc1_18 y1 0 x18 0 0.306548155930692
Gyc1_19 y1 0 x19 0 0.33932085578236
Gyc1_20 y1 0 x20 0 -1
Gyc1_21 y1 0 x21 0 -0.209412457912912
Gyc1_22 y1 0 x22 0 1
Gyc1_23 y1 0 x23 0 -0.796671348604894
Gyc1_24 y1 0 x24 0 -0.124593375277853
Gyc2_1 y2 0 x1 0 -0.303781940759666
Gyc2_2 y2 0 x2 0 0.953792781429591
Gyc2_3 y2 0 x3 0 1
Gyc2_4 y2 0 x4 0 -0.176251577760867
Gyc2_5 y2 0 x5 0 -1
Gyc2_6 y2 0 x6 0 -0.511114572772623
Gyc2_7 y2 0 x7 0 -1
Gyc2_8 y2 0 x8 0 -0.669130164214401
Gyc2_9 y2 0 x9 0 0.371579687818888
Gyc2_10 y2 0 x10 0 -0.665690712910805
Gyc2_11 y2 0 x11 0 0.748288226582896
Gyc2_12 y2 0 x12 0 1
Gyc2_13 y2 0 x13 0 0.336800419550435
Gyc2_14 y2 0 x14 0 -1
Gyc2_15 y2 0 x15 0 -0.210515934471063
Gyc2_16 y2 0 x16 0 1
Gyc2_17 y2 0 x17 0 -0.79227629896678
Gyc2_18 y2 0 x18 0 -0.12626901022765
Gyc2_19 y2 0 x19 0 -0.479207401782078
Gyc2_20 y2 0 x20 0 -0.431732998175061
Gyc2_21 y2 0 x21 0 0.0614010369886891
Gyc2_22 y2 0 x22 0 0.382275815378008
Gyc2_23 y2 0 x23 0 0.7016220288712
Gyc2_24 y2 0 x24 0 0.307202410766483
Gyc3_1 y3 0 x1 0 -0.473606223769444
Gyc3_2 y3 0 x2 0 -0.430555021512368
Gyc3_3 y3 0 x3 0 0.0626215305337079
Gyc3_4 y3 0 x4 0 0.383438314888007
Gyc3_5 y3 0 x5 0 0.701840399680228
Gyc3_6 y3 0 x6 0 0.306546285396717
Gyc3_7 y3 0 x7 0 0.339319324720425
Gyc3_8 y3 0 x8 0 -1
Gyc3_9 y3 0 x9 0 -0.209412226923559
Gyc3_10 y3 0 x10 0 1
Gyc3_11 y3 0 x11 0 -0.796672399585549
Gyc3_12 y3 0 x12 0 -0.124600850387204
Gyc3_13 y3 0 x13 0 -1
Gyc3_14 y3 0 x14 0 -0.680746929861094
Gyc3_15 y3 0 x15 0 0.375844755232684
Gyc3_16 y3 0 x16 0 -0.687185064360307
Gyc3_17 y3 0 x17 0 0.745623766227051
Gyc3_18 y3 0 x18 0 1
Gyc3_19 y3 0 x19 0 -0.305316952172073
Gyc3_20 y3 0 x20 0 0.961712985023274
Gyc3_21 y3 0 x21 0 1
Gyc3_22 y3 0 x22 0 -0.181901174872439
Gyc3_23 y3 0 x23 0 -1
Gyc3_24 y3 0 x24 0 -0.514191309131928
Gyc4_1 y4 0 x1 0 0.336798101195667
Gyc4_2 y4 0 x2 0 -1
Gyc4_3 y4 0 x3 0 -0.210515009112534
Gyc4_4 y4 0 x4 0 1
Gyc4_5 y4 0 x5 0 -0.792279075458653
Gyc4_6 y4 0 x6 0 -0.126265539899513
Gyc4_7 y4 0 x7 0 -0.479209037488733
Gyc4_8 y4 0 x8 0 -0.431736064708282
Gyc4_9 y4 0 x9 0 0.0614033099915893
Gyc4_10 y4 0 x10 0 0.382272812243503
Gyc4_11 y4 0 x11 0 0.701622264190459
Gyc4_12 y4 0 x12 0 0.307205519203588
Gyc4_13 y4 0 x13 0 -0.303785458846227
Gyc4_14 y4 0 x14 0 0.953789994721793
Gyc4_15 y4 0 x15 0 1
Gyc4_16 y4 0 x16 0 -0.176252205688699
Gyc4_17 y4 0 x17 0 -1
Gyc4_18 y4 0 x18 0 -0.511113394862299
Gyc4_19 y4 0 x19 0 -1
Gyc4_20 y4 0 x20 0 -0.669128779576609
Gyc4_21 y4 0 x21 0 0.371577328177146
Gyc4_22 y4 0 x22 0 -0.665687040178153
Gyc4_23 y4 0 x23 0 0.748287426303778
Gyc4_24 y4 0 x24 0 1
.ENDS
