* Equivalent circuit model for E:\touchstone_files\matlab\144_um.ckt
.SUBCKT 144_um po1 po2 po3 po4
Vsp1 po1 p1 0
Vsr1 p1 pr1 0
Rp1 pr1 0 50
Ru1 u1 0 50
Fr1 u1 0 Vsr1 -1
Fu1 u1 0 Vsp1 -1
Ry1 y1 0 1
Gy1 p1 0 y1 0 -0.02
Vsp2 po2 p2 0
Vsr2 p2 pr2 0
Rp2 pr2 0 50
Ru2 u2 0 50
Fr2 u2 0 Vsr2 -1
Fu2 u2 0 Vsp2 -1
Ry2 y2 0 1
Gy2 p2 0 y2 0 -0.02
Vsp3 po3 p3 0
Vsr3 p3 pr3 0
Rp3 pr3 0 50
Ru3 u3 0 50
Fr3 u3 0 Vsr3 -1
Fu3 u3 0 Vsp3 -1
Ry3 y3 0 1
Gy3 p3 0 y3 0 -0.02
Vsp4 po4 p4 0
Vsr4 p4 pr4 0
Rp4 pr4 0 50
Ru4 u4 0 50
Fr4 u4 0 Vsr4 -1
Fu4 u4 0 Vsp4 -1
Ry4 y4 0 1
Gy4 p4 0 y4 0 -0.02
Rx1 x1 0 1
Fxc1_2 x1 0 Vx2 0.517586037360082
Cx1 x1 xm1 3.13376779796488e-13
Vx1 xm1 0 0
Gx1_1 x1 0 u1 0 -0.94027165637404
Rx2 x2 0 1
Fxc2_1 x2 0 Vx1 -0.723292180356087
Cx2 x2 xm2 3.13376779796488e-13
Vx2 xm2 0 0
Gx2_1 x2 0 u1 0 0.680091136465809
Rx3 x3 0 1
Fxc3_4 x3 0 Vx4 4.20624803253194
Cx3 x3 xm3 1.2382615871337e-13
Vx3 xm3 0 0
Gx3_1 x3 0 u1 0 -0.211773392674781
Rx4 x4 0 1
Fxc4_3 x4 0 Vx3 -1.37252896891219
Cx4 x4 xm4 1.2382615871337e-13
Vx4 xm4 0 0
Gx4_1 x4 0 u1 0 0.290665116290953
Rx5 x5 0 1
Cx5 x5 0 1.04859866529425e-12
Gx5_1 x5 0 u1 0 -0.599197100843721
Rx6 x6 0 1
Cx6 x6 0 6.93303177977878e-12
Gx6_1 x6 0 u1 0 -0.0192156895860566
Rx7 x7 0 1
Fxc7_8 x7 0 Vx8 0.511553091392261
Cx7 x7 xm7 3.13376779796488e-13
Vx7 xm7 0 0
Gx7_2 x7 0 u2 0 -0.930771074575261
Rx8 x8 0 1
Fxc8_7 x8 0 Vx7 -0.731822248332336
Cx8 x8 xm8 3.13376779796488e-13
Vx8 xm8 0 0
Gx8_2 x8 0 u2 0 0.681158980478372
Rx9 x9 0 1
Fxc9_10 x9 0 Vx10 4.20649618462465
Cx9 x9 xm9 1.2382615871337e-13
Vx9 xm9 0 0
Gx9_2 x9 0 u2 0 -0.211162091493567
Rx10 x10 0 1
Fxc10_9 x10 0 Vx9 -1.37244799987739
Cx10 x10 xm10 1.2382615871337e-13
Vx10 xm10 0 0
Gx10_2 x10 0 u2 0 0.289808990120274
Rx11 x11 0 1
Cx11 x11 0 1.04859866529425e-12
Gx11_2 x11 0 u2 0 -0.59806727500134
Rx12 x12 0 1
Cx12 x12 0 6.93303177977878e-12
Gx12_2 x12 0 u2 0 -0.0190555850458665
Rx13 x13 0 1
Fxc13_14 x13 0 Vx14 0.517585959588965
Cx13 x13 xm13 3.13376779796488e-13
Vx13 xm13 0 0
Gx13_3 x13 0 u3 0 -0.940269907270892
Rx14 x14 0 1
Fxc14_13 x14 0 Vx13 -0.723292289036086
Cx14 x14 xm14 3.13376779796488e-13
Vx14 xm14 0 0
Gx14_3 x14 0 u3 0 0.680089973541712
Rx15 x15 0 1
Fxc15_16 x15 0 Vx16 4.20624406254056
Cx15 x15 xm15 1.2382615871337e-13
Vx15 xm15 0 0
Gx15_3 x15 0 u3 0 -0.211773129859292
Rx16 x16 0 1
Fxc16_15 x16 0 Vx15 -1.37253026435014
Cx16 x16 xm16 1.2382615871337e-13
Vx16 xm16 0 0
Gx16_3 x16 0 u3 0 0.29066502990803
Rx17 x17 0 1
Cx17 x17 0 1.04859866529425e-12
Gx17_3 x17 0 u3 0 -0.599196845932365
Rx18 x18 0 1
Cx18 x18 0 6.93303177977878e-12
Gx18_3 x18 0 u3 0 -0.0192155965361462
Rx19 x19 0 1
Fxc19_20 x19 0 Vx20 0.511423452506762
Cx19 x19 xm19 3.13376779796488e-13
Vx19 xm19 0 0
Gx19_4 x19 0 u4 0 -0.930682116185671
Rx20 x20 0 1
Fxc20_19 x20 0 Vx19 -0.732007755313278
Cx20 x20 xm20 3.13376779796488e-13
Vx20 xm20 0 0
Gx20_4 x20 0 u4 0 0.681266526779284
Rx21 x21 0 1
Fxc21_22 x21 0 Vx22 4.20228348990081
Cx21 x21 xm21 1.2382615871337e-13
Vx21 xm21 0 0
Gx21_4 x21 0 u4 0 -0.210948124239141
Rx22 x22 0 1
Fxc22_21 x22 0 Vx21 -1.3738238481422
Cx22 x22 xm22 1.2382615871337e-13
Vx22 xm22 0 0
Gx22_4 x22 0 u4 0 0.289805563800597
Rx23 x23 0 1
Cx23 x23 0 1.04859866529425e-12
Gx23_4 x23 0 u4 0 -0.597771650772242
Rx24 x24 0 1
Cx24 x24 0 6.93303177977878e-12
Gx24_4 x24 0 u4 0 -0.0190387661105468
Gyc1_1 y1 0 x1 0 -1
Gyc1_2 y1 0 x2 0 -0.246285124372202
Gyc1_3 y1 0 x3 0 0.412239216159267
Gyc1_4 y1 0 x4 0 -0.661613158764306
Gyc1_5 y1 0 x5 0 0.774541533253145
Gyc1_6 y1 0 x6 0 1
Gyc1_7 y1 0 x7 0 -0.110336574584908
Gyc1_8 y1 0 x8 0 0.979580798010177
Gyc1_9 y1 0 x9 0 1
Gyc1_10 y1 0 x10 0 -0.622515753102531
Gyc1_11 y1 0 x11 0 -1
Gyc1_12 y1 0 x12 0 -0.447915963354352
Gyc1_13 y1 0 x13 0 -0.643826099914941
Gyc1_14 y1 0 x14 0 -0.288143073468287
Gyc1_15 y1 0 x15 0 0.235075636714071
Gyc1_16 y1 0 x16 0 0.238926787989692
Gyc1_17 y1 0 x17 0 0.696056060652542
Gyc1_18 y1 0 x18 0 0.338240028968271
Gyc1_19 y1 0 x19 0 0.0721755592532868
Gyc1_20 y1 0 x20 0 -1
Gyc1_21 y1 0 x21 0 0.0488628866580452
Gyc1_22 y1 0 x22 0 1
Gyc1_23 y1 0 x23 0 -0.767604557933104
Gyc1_24 y1 0 x24 0 -0.168929180318318
Gyc2_1 y2 0 x1 0 -0.111597842058253
Gyc2_2 y2 0 x2 0 0.975190678893442
Gyc2_3 y2 0 x3 0 1
Gyc2_4 y2 0 x4 0 -0.616447975186824
Gyc2_5 y2 0 x5 0 -1
Gyc2_6 y2 0 x6 0 -0.447730570856854
Gyc2_7 y2 0 x7 0 -1
Gyc2_8 y2 0 x8 0 -0.241558060052629
Gyc2_9 y2 0 x9 0 0.409257323217007
Gyc2_10 y2 0 x10 0 -0.644567597180498
Gyc2_11 y2 0 x11 0 0.775915750685944
Gyc2_12 y2 0 x12 0 1
Gyc2_13 y2 0 x13 0 0.0730344592357732
Gyc2_14 y2 0 x14 0 -1
Gyc2_15 y2 0 x15 0 0.0468798361971661
Gyc2_16 y2 0 x16 0 1
Gyc2_17 y2 0 x17 0 -0.764190459146355
Gyc2_18 y2 0 x18 0 -0.169760422699295
Gyc2_19 y2 0 x19 0 -0.650079233827206
Gyc2_20 y2 0 x20 0 -0.289338657297279
Gyc2_21 y2 0 x21 0 0.234366005517337
Gyc2_22 y2 0 x22 0 0.23930789924629
Gyc2_23 y2 0 x23 0 0.695665535759959
Gyc2_24 y2 0 x24 0 0.339107170620428
Gyc3_1 y3 0 x1 0 -0.643823317842012
Gyc3_2 y3 0 x2 0 -0.288140644030101
Gyc3_3 y3 0 x3 0 0.235073535667416
Gyc3_4 y3 0 x4 0 0.238927454164667
Gyc3_5 y3 0 x5 0 0.696056552708288
Gyc3_6 y3 0 x6 0 0.338234019022378
Gyc3_7 y3 0 x7 0 0.0722783267674515
Gyc3_8 y3 0 x8 0 -1
Gyc3_9 y3 0 x9 0 0.0486781890745533
Gyc3_10 y3 0 x10 0 1
Gyc3_11 y3 0 x11 0 -0.767157108603669
Gyc3_12 y3 0 x12 0 -0.1690297594309
Gyc3_13 y3 0 x13 0 -1
Gyc3_14 y3 0 x14 0 -0.246283916440425
Gyc3_15 y3 0 x15 0 0.412238058218986
Gyc3_16 y3 0 x16 0 -0.661611370275398
Gyc3_17 y3 0 x17 0 0.774542381371849
Gyc3_18 y3 0 x18 0 1
Gyc3_19 y3 0 x19 0 -0.109535114534239
Gyc3_20 y3 0 x20 0 0.980601452274772
Gyc3_21 y3 0 x21 0 1
Gyc3_22 y3 0 x22 0 -0.622466981726398
Gyc3_23 y3 0 x23 0 -1
Gyc3_24 y3 0 x24 0 -0.449779385663511
Gyc4_1 y4 0 x1 0 0.0730335442738097
Gyc4_2 y4 0 x2 0 -1
Gyc4_3 y4 0 x3 0 0.0468808464494652
Gyc4_4 y4 0 x4 0 1
Gyc4_5 y4 0 x5 0 -0.764191289048179
Gyc4_6 y4 0 x6 0 -0.169749680778369
Gyc4_7 y4 0 x7 0 -0.649538229983971
Gyc4_8 y4 0 x8 0 -0.28888778092505
Gyc4_9 y4 0 x9 0 0.233648425582546
Gyc4_10 y4 0 x10 0 0.239670522931523
Gyc4_11 y4 0 x11 0 0.695504740457701
Gyc4_12 y4 0 x12 0 0.338216911482597
Gyc4_13 y4 0 x13 0 -0.11159686478162
Gyc4_14 y4 0 x14 0 0.975193855872682
Gyc4_15 y4 0 x15 0 1
Gyc4_16 y4 0 x16 0 -0.616447847549487
Gyc4_17 y4 0 x17 0 -1
Gyc4_18 y4 0 x18 0 -0.447729276272258
Gyc4_19 y4 0 x19 0 -1
Gyc4_20 y4 0 x20 0 -0.241357661530503
Gyc4_21 y4 0 x21 0 0.409553241660712
Gyc4_22 y4 0 x22 0 -0.644573420567102
Gyc4_23 y4 0 x23 0 0.77639399856863
Gyc4_24 y4 0 x24 0 1
.ENDS
